US07652015B2
Treat a 22° C. solution of 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-6-methyl-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester (Preparation 49; 63.20 g, 115.4 mmol) in MeOH (600 mL) with HCl (4 N solution in dioxane, 300 mL, 1200 mmol). Stir the mixture for 4 hours then concentrate under reduced pressure (room temperature, ca. 10 torr, 3 days) to afford 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea dihydrochloride as an off-white powder (62.2 g—contains ca. 45 mol % of dioxane. LCMS(ES+): m/z=448 [M+H].

reactant | 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-6-methyl-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 115.4 mmol, 63.20 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C)C | C30H41N7O3
reactant | HCl | 1200 mmol, 4 N, 300 mL | Cl | ClH
solvent | MeOH | 600 mL | CO | CH4O
product | 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea dihydrochloride | Cl.Cl.C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C(=NC(=CC1)N1CCNCC1)C | InChI=1S/C25H33N7O.2ClH/c1-17-6-8-19(9-7-17)32-23(16-21(30-32)25(3,4)5)29-24(33)28-20-10-11-22(27-18(20)2)31-14-12-26-13-15-31;;/h6-11,16,26H,12-15H2,1-5H3,(H2,28,29,33);2*1H
